US07652051B2
Synthesis of 4-[5-(4-trifluoromethoxy-phenyl)-4H-[1,2,4]triazol-3-ylamino]-phenol
4-trifluoromethoxybenzoic acid hydrazide (1.1 g, 5.0 mmol) and S-methyl N-[4-hydroxy-phenyl]isothiourea hydroiodide (1.55 g, 5.0 mmol) were suspended in 10 mL of anhydrous pyridine. The reaction mixture was refluxed for 24 hours, during which time it changed color from yellow into orange-red. Then it was cooled down to ambient temperature and poured with stirring into 150 mL of ice-water. The aqueous layer was decanted and the resulting residue was purified by silica gel chromatography using 1:1 mixture of ethyl acetate/hexane. Solvent was removed in vacuo to give the title product as a pinkish-grey solid (684.0 mg). 40.6% yield.

reactant | 4-trifluoromethoxybenzoic acid hydrazide | 5.0 mmol, 1.1 g | FC(OC1=CC=C(C(=O)NN)C=C1)(F)F | C8H7F3N2O2
reactant | S-methyl N-[4-hydroxy-phenyl]isothiourea hydroiodide | 5.0 mmol, 1.55 g | I.CSC(NC1=CC=C(C=C1)O)=N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-[5-(4-trifluoromethoxy-phenyl)-4H-[1,2,4]triazol-3-ylamino]-phenol | 684.0 mg, 40.6% yield | FC(OC1=CC=C(C=C1)C=1NC(=NN1)NC1=CC=C(C=C1)O)(F)F | C15H11F3N4O2
